US03993763
The mixture of 100 g (4-amino-phenyl)-acetic acid and 200 ml acetanhydride is heated at the steam cone for 15 minutes and evaporated. The residue is stirred with 500 ml hot water until complete dissolution occurs. The solution is cooled and the precipitate formed filtered off, to yield the (4-acetamino-phenyl)-acetic acid melting at 168°-170°.

reactant | (4-amino-phenyl)-acetic acid | 100 g | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | acetanhydride | 200 ml | CC(=O)OC(=O)C | C4H6O3
product | (4-acetamino-phenyl)-acetic acid | N(C(=O)C)C1=CC=C(C=C1)CC(=O)O | C10H11NO3
